US09079860B2
Part A: 2-(Benzhydrylidene-amino)-3-(3-difluoromethoxy-phenyl)-propionic acid ethyl ester
N-(Diphenylmethylene)Glycine ethyl ester (500 mg, 1.87 mmol), Tetrabuylammonium Bromide (63 mg, 0.187 mmol) and 3-(Difluoromethoxy)benzyl bromide (0.5 mL, 1.87 mmol) were placed in a flask. The flask was evacuated and backfilled with argon. Anhyd dichloromethane was added to the flask, and the reaction was cooled in dry-ice acetone bath to −78° C. 2-tert-butylimino-2-diethylamino-1,3-dimethylperhydro-1,3,2-diazaphosphorine (0.7 mL, 2.44 mmol) was added slowly under argon at −78° C. The reaction was allowed to stir at −78° C. for 30 minutes, and then warmed to room temperature over 16 h. The solvent was removed under vacuum. The residue was pre-adsorbed on to SiO2 and the product was isolated via SiO2 to yield 700 mg of light yellow oil. MS 424.0 (M+H)+.

reactant | N-(Diphenylmethylene)Glycine ethyl ester | 1.87 mmol, 500 mg | C(C)OC(CN=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H17NO2
reactant | 3-(Difluoromethoxy)benzyl bromide | 1.87 mmol, 0.5 mL | FC(OC=1C=C(CBr)C=CC1)F | C8H7BrF2O
reactant | 2-tert-butylimino-2-diethylamino-1,3-dimethylperhydro-1,3,2-diazaphosphorine | 2.44 mmol, 0.7 mL | C(C)(C)(C)N=P1(N(CCCN1C)C)N(CC)CC | C13H31N4P
catalyst | Tetrabuylammonium Bromide | 0.187 mmol, 63 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-(Benzhydrylidene-amino)-3-(3-difluoromethoxy-phenyl)-propionic acid ethyl ester | 700 mg | C(C)OC(C(CC1=CC(=CC=C1)OC(F)F)N=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C25H23F2NO3
